US03971819
B. 3-amino-4-(β-phenylethylamino)-5-sulphamyl-benzoic acid
By substituting 3-nitro-4-(β-phenylethylamino)-5-sulphamyl-benzoic acid for the 4-anilino-3-nitro-5-sulphamyl-benzoic acid Example 9 B, the above compound was obtained with a melting point of 194°-195°C.

reactant | 3-nitro-4-(β-phenylethylamino)-5-sulphamyl-benzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1NCCC1=CC=CC=C1)S(N)(=O)=O | C15H15N3O6S
reactant | 4-anilino-3-nitro-5-sulphamyl-benzoic acid | N(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C13H11N3O6S
product | 3-amino-4-(β-phenylethylamino)-5-sulphamyl-benzoic acid | NC=1C=C(C(=O)O)C=C(C1NCCC1=CC=CC=C1)S(N)(=O)=O | C15H17N3O4S
